US07491835B2
2-tert-Butoxycarbonylamino-4-methyl-pentanoic acid 2,5-dioxo-cyclopentyl ester (2)
To the mixture of N-(tert-Butoxycarbonyl)-L-leucine (1.03 g, 4.46 mmol) and N-Hydroxysuccinimide (0.74 g, 6.43 mmol) in acetonitrile (30 ml) was added 1,3-Dicyclohexylcarbodiimide (1.24 g, 6.01 mmol) and stirred for 4 hr, at room temperature. The resulting precipitate was filtered off and the acetonitrile filtrate containing 2 was carried on to the next step. MS, m/z (relative intensity): 327 [M+1H, 100%], 327 [M+1H —C(CH3)3, 100%].

reactant | N-(tert-Butoxycarbonyl)-L-leucine | 4.46 mmol, 1.03 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | N-Hydroxysuccinimide | 6.43 mmol, 0.74 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-Dicyclohexylcarbodiimide | 6.01 mmol, 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-tert-Butoxycarbonylamino-4-methyl-pentanoic acid 2,5-dioxo-cyclopentyl ester | O=C1C(C(CC1)=O)OC(C(CC(C)C)NC(=O)OC(C)(C)C)=O | C16H25NO6
